US04272534
A solution of methyl 2-(pyrid-2-yl)tetrahydrothiophene-2-carbodithioate (12.8 g) and ethanolamine (3 g) in ethanol (150 cc) is heated under reflux for 1 hour 30 minutes. After concentrating the reaction mixture to dryness (20 mm Hg; 2.7 kPa) at 50° C., the resulting residue (14.8 g) is dissolved in boiling ethanol (80 cc) and the solution, to which decolourising charcoal (0.3 g) is added, is filtered hot and then kept, after cooling, for 1 hour at a temperature of about 0° C. The crystals which have appeared are filtered off, washed twice with ethanol (30 cc in total) and dried under reduced pressure (1 mm Hg; 0.13 kPa) at 50° C. N-(2-Hydroxyethyl)-2-(pyrid-2-yl)tetrahydrothiophene-2-carbothioamide (11.4 g), melting at 132° C., is thus obtained.

reactant | methyl 2-(pyrid-2-yl)tetrahydrothiophene-2-carbodithioate | 12.8 g | N1=C(C=CC=C1)C1(SCCC1)C(=S)SC | C11H13NS3
reactant | ethanolamine | 3 g | C(O)CN | C2H7NO
solvent | ethanol | 150 cc | C(C)O | C2H6O
product | N-(2-Hydroxyethyl)-2-(pyrid-2-yl)tetrahydrothiophene-2-carbothioamide | 11.4 g | OCCNC(=S)C1(SCCC1)C1=NC=CC=C1 | C12H16N2OS2
